US03950356
A solution is prepared of 2.17 g. (0.0295 mole) of 2-hydroxy-6-nitro-1-naphthaldehyde in 80 cm3 of hot ethanol, to this is added 1.73 g. (0.0295 mole) of 1,3,3-trimethyl-2-methyleneindoline and the mixture is heated for two hours at boiling temperature under reflux. The mixture is then cooled to 0° C. and a precipitate of indolinespiropyran is obtained. This is filtered and dried. The composition has a melting point of 234° C. The product is recrystallized twice from benzene and the melting point is increased to 240°-241° C. The purified product weight is 1.34 g. which represents a recovery of 36%.

reactant | 2-hydroxy-6-nitro-1-naphthaldehyde | 0.0295 mole | OC1=C(C2=CC=C(C=C2C=C1)[N+](=O)[O-])C=O | C11H7NO4
reactant | 1,3,3-trimethyl-2-methyleneindoline | 0.0295 mole | CN1C(C(C2=CC=CC=C12)(C)C)=C | C12H15N
solvent | ethanol | 80 cm3 | C(C)O | C2H6O
product | indolinespiropyran | O1C2(C=CC=C1)NC1=CC=CC=C1C2 | C12H11NO
